US05159061
(XIX) Production of Boc-Phe-Gly-Gly-OH.CHA
7.0 g Boc-Phe-Gly-Gly-OBzl was reduced in the presence of Pd-black as a catalyst in 200 ml MeOH, and this was followed by concentration. The resulting concentrate, after the addition of 1.72 ml CHA, was crystallized with AcOEt and collected by filtration.

reactant | Boc-Phe-Gly-Gly-OBzl | 7.0 g | N([C@@H](CC1=CC=CC=C1)C(=O)NCC(=O)NCC(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C25H31N3O6
catalyst | Pd | [Pd] | Pd
solvent | MeOH | 200 ml | CO | CH4O
product | Boc-Phe-Gly-Gly-OH | N([C@@H](CC1=CC=CC=C1)C(=O)NCC(=O)NCC(=O)O)C(=O)OC(C)(C)C | C18H25N3O6
